US06716851B2
4-(3-Trifluoromethoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
A mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (25 mg, 0.096 mmol), 3-trifluoromethoxyaniline (19 μl, 0.144 mmol), and 2N HCl (75 μl) in water:ethanol (2:1, 5 ml) was refluxed for 24 h. The mixture was cooled to room temperature and the resulting precipitate was filtered, washed with water, water:ethanol (2:1) and dried to give a yellow solid (23 mg, 59%). 1H NMR (CDCl3): 8.88-8.85 (m, 1H), 8.59-8.55 (m, 1H), 7.93-7.87 (m, 1H), 7.59 (s, 1H), 7.48 (t, J=8.3 Hz, 1H), 7.45 (dd, J=1.2, 7.5 Hz, 1H), 7.36 (s, 1H), 7.30-7.29 (m, 1H), 7.16-7.10 (m, 1H), 7.05 (s, 1H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.096 mmol, 25 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 3-trifluoromethoxyaniline | 0.144 mmol, 19 μl | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | HCl | 2N, 75 μl | Cl | ClH
solvent | water ethanol | 5 ml | O.C(C)O
product | 4-(3-Trifluoromethoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | 23 mg, 59% | Cl.FC(OC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=CC1)(F)F | InChI=1S/C17H10F6N4O.ClH/c18-16(19,20)13-9-14(27-15(26-13)12-6-1-2-7-24-12)25-10-4-3-5-11(8-10)28-17(21,22)23;/h1-9H,(H,25,26,27);1H
